US07678917B2
To a stirred suspension of 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (296 mg; CAS 536747-52-1, prepared according to C. F. Bigge et al., patent application WO 2003045912) at r.t. in dioxane (3 ml) under an argon atmosphere was added carefully trimethyl aluminium solution (0.72 ml; 2M in heptane). After stirring for 2 hrs at r.t., a solution of (1R,3S,4S)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-4-hydroxy-cyclopentane-carboxylic acid methyl ester (110 mg) in dioxane (3 ml) was added. The mixture was heated to 100° C. and stirring at that temperature was continued for 24 h. The mixture was cooled to r.t. and water (0.8 ml) was added. After 15 min stirring, MgSO4 was added and stirring was continued for another 15 min. The solids were filtered off and washed with dichloromethane. The filtrate was concentrated. The crude product was isolated by column chromatography (silica gel; gradient: CH2Cl2→CH2Cl2/MeOH 9:1) to give 5-chloro-thiophene-2-carboxylic acid {(1S,2S,4R)-4-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-2-hydroxy-cyclopentyl}-amide (81 mg) as light yellow solid. MS: 476.0 ([M+H]+).

reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | 296 mg | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
reactant | trimethyl aluminium | 2M, 0.72 ml | C[Al](C)C
reactant | (1R,3S,4S)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-4-hydroxy-cyclopentane-carboxylic acid methyl ester | 110 mg | COC(=O)[C@@H]1C[C@@H]([C@H](C1)O)NC(=O)C=1SC(=CC1)Cl | C12H14ClNO4S
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.8 ml | O | H2O
product | 5-chloro-thiophene-2-carboxylic acid {(1S,2S,4R)-4-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-2-hydroxy-cyclopentyl}-amide | 81 mg | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)[C@H]1C[C@@H]([C@H](C1)NC(=O)C=1SC(=CC1)Cl)O | C22H19ClFN3O4S
